### PR TITLE
Refactor `Data.Vec.Properties` : Add toList-injective and new lemmas 

### PR DESCRIPTION
**Pull request by jmougeot**
- Replace `Data.List.Base as List` and `Data.List.Properties as List` with shorter `L` aliases throughout the module for better readable proof 

- Add new utility lemma `toList-injective` that proves vector equality from list equality using heterogeneous equality

- Add new equation-free lemmas that leverage `toList-injective` for cleaner proofs:
  - `fromList-reverse`: proves `fromList (L.reverse xs) ≈[ L.length-reverse xs ] reverse (fromList xs)`
  - `++-ʳ++-eqFree`: proves associativity-like property for reverse-append without explicit equation parameter
  - `ʳ++-ʳ++-eqFree`: proves composition property for reverse-append operations

- Update all `List.` references to `L.` in function types and implementations

- Import `Tactic.Cong` module to support the `cong!` tactic used in several proofs

This change improves code readability and adds a fundamental lemma for  reasoning about vector equality via list conversion, which is used in several proofs throughout the module.

### CODE REVIEW

**Comment by JacquesCarette** [comment]
> Replace Data.List.Base as List and Data.List.Properties as List with shorter L aliases throughout the module for better readable proof

While I happen to like that, this goes specifically against the stdlib [naming convention](https://github.com/agda/agda-stdlib/blob/master/doc/style-guide.md) which states that it should be `List`.

> import Tactic.Cong module to support the cong! tactic used in several proofs

It has been an (unwritten!) convention to not use tactics in fairly low-level parts of the library, as we don't want those parts of the library to depend on the `Reflection` machinery. The dependency graph is nasty enough as it is, we don't really want to make it worse.

File: src/Data/Vec/Properties.agda [hunk 1]
```diff
@@ -1025,17 +1039,32 @@ map-reverse f (x ∷ xs) = begin
...
-  reverse (xs ++ ys) ∷ʳ x             ≈⟨ ≈-cong′ (_∷ʳ x) (reverse-++-eqFree xs ys) ⟩
-  (reverse ys ++ reverse xs) ∷ʳ x     ≈⟨ ++-∷ʳ-eqFree x (reverse ys) (reverse xs) ⟩
-  reverse ys ++ (reverse xs ∷ʳ x)     ≂⟨ cong (reverse ys ++_) (reverse-∷ x xs) ⟨
-  reverse ys ++ (reverse (x ∷ xs))    ∎
-  where open CastReasoning
+reverse-++-eqFree : ∀ (xs : Vec A m) (ys : Vec A n)
+                  → reverse (xs ++ ys) ≈[ +-comm m n ] reverse ys ++ reverse xs
+reverse-++-eqFree {m = m} {n = n} xs ys =
+  toList-injective (+-comm m n) (reverse (xs ++ ys)) (reverse ys ++ reverse xs) $
+  begin
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:1055]: Is this really a cleaner proof? To my eyes it looks longer and more complicated?

File: src/Data/Vec/Properties.agda [hunk 2]
```diff
@@ -1318,17 +1353,14 @@ fromList-++ : ∀ (xs : List A) {ys : List A} →
...
-  fromList (List.reverse xs) ++ [ x ]           ≈⟨ unfold-∷ʳ-eqFree x (fromList (List.reverse xs)) ⟨
-  fromList (List.reverse xs) ∷ʳ x               ≈⟨ ≈-cong′ (_∷ʳ x) (fromList-reverse xs) ⟩
-  reverse (fromList xs) ∷ʳ x                    ≂⟨ reverse-∷ x (fromList xs) ⟨
-  reverse (x ∷ fromList xs)                     ≈⟨⟩
-  reverse (fromList (x List.∷ xs))              ∎
-  where open CastReasoning
+fromList-reverse : (xs : List A) → (fromList (List.reverse xs)) ≈[ List.length-reverse xs ] reverse (fromList xs)
+fromList-reverse xs = toList-injective (List.length-reverse xs) (fromList (List.reverse xs)) (reverse (fromList xs)) $
+  begin
+    toList (fromList (List.reverse xs)) ≡⟨ toList∘fromList (List.reverse xs) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:1358]: Can we align the reasoning combinators?

File: src/Data/Vec/Properties.agda [hunk 3]
```diff
@@ -1304,8 +1339,8 @@ cast-fromList {xs = List.[]}     {ys = List.[]}     eq = refl
 cast-fromList {xs = x List.∷ xs} {ys = y List.∷ ys} eq =
   let x≡y , xs≡ys = List.∷-injective eq in begin
   x ∷ cast (cong (pred ∘ List.length) eq) (fromList xs) ≡⟨ cong (_ ∷_) (cast-fromList xs≡ys) ⟩
-  x ∷ fromList ys                                       ≡⟨ cong (_∷ _) x≡y ⟩
-  y ∷ fromList ys                                       ∎
+  x ∷ fromList ys                                    ≡⟨ cong (_∷ _) x≡y ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda]: The only change here seems to be to misalign the combinators?

File: src/Data/Vec/Properties.agda [hunk 4]
```diff
@@ -52,6 +53,19 @@ private
     m n o : ℕ
     ws xs ys zs : Vec A n
 
+------------------------------------------------------------------------
+-- Properties to List
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda]: This should be `Properties of toList`

File: src/Data/Vec/Properties.agda [hunk 5]
```diff
@@ -52,6 +53,19 @@ private
...
+
+toList-injective
+  : ∀ {m n}
+  → .(m=n : m ≡ n)
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda]: Can we follow the style guide about the placement of arrows on new lines?

Also can the name of this proof use `≡` instead of `=`?

File: src/Data/Vec/Properties.agda [hunk 6]
```diff
@@ -52,6 +53,19 @@ private
     m n o : ℕ
     ws xs ys zs : Vec A n
 
+------------------------------------------------------------------------
+-- Properties to List
+
+toList-injective
+  : ∀ {m n}
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda]: This are variables and therefore not needed.

File: src/Data/Vec/Properties.agda [hunk 7]
```diff
@@ -1025,17 +1039,32 @@ map-reverse f (x ∷ xs) = begin
...
 
 -- append and reverse
+toList-∷ʳ : ∀ x (xs : Vec A n) → toList (xs ∷ʳ x) ≡ toList xs List.++ List.[ x ]
+toList-∷ʳ x []       = refl
+toList-∷ʳ x (y ∷ xs) = cong (y List.∷_) (toList-∷ʳ x xs)
+
+toList-reverse : ∀ (xs : Vec A n) → toList (reverse xs) ≡ List.reverse (toList xs)
+toList-reverse [] = refl
+toList-reverse (x ∷ xs) = begin
+  toList (reverse (x ∷ xs))          ≡⟨ cong toList (reverse-∷ x xs) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda]: Can we align the reasoning combinators? (you may need to install a monospaced font to make this easier)

File: src/Data/Vec/Properties.agda [hunk 8]
```diff
@@ -1061,53 +1090,55 @@ foldr-ʳ++ B f {e} xs = foldl-fusion (foldr B f e) refl (λ _ _ → refl) xs
...
-∷-ʳ++-eqFree a xs {ys} = begin
-  (a ∷ xs) ʳ++ ys         ≂⟨ unfold-ʳ++ (a ∷ xs) ys ⟩
-  reverse (a ∷ xs) ++ ys  ≂⟨ cong (_++ ys) (reverse-∷ a xs) ⟩
-  (reverse xs ∷ʳ a) ++ ys ≈⟨ ∷ʳ-++-eqFree a (reverse xs) ⟩
-  reverse xs ++ (a ∷ ys)  ≂⟨ unfold-ʳ++ xs (a ∷ ys) ⟨
-  xs ʳ++ (a ∷ ys)         ∎
-  where open CastReasoning
+toList-ʳ++ : ∀ (xs : Vec A m) {ys : Vec A n} → toList (xs ʳ++ ys) ≡ (toList xs) List.ʳ++ toList ys
+toList-ʳ++ xs {ys} = begin
+  toList (xs ʳ++ ys)                    ≡⟨ cong toList (unfold-ʳ++ xs ys) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda]: Can we align the reasoning combinators? (for all new proofs in this file)

File: src/Data/Vec/Properties.agda [hunk 9]
```diff
@@ -1061,53 +1090,55 @@ foldr-ʳ++ B f {e} xs = foldl-fusion (foldr B f e) refl (λ _ _ → refl) xs
...
+  map f (xs ʳ++ ys)              ≡⟨ cong (map f) (unfold-ʳ++ xs ys) ⟩
+  map f (reverse xs ++ ys)       ≡⟨ map-++ f (reverse xs) ys ⟩
+  map f (reverse xs) ++ map f ys ≡⟨ cong (_++ map f ys) (map-reverse f xs) ⟩
   reverse (map f xs) ++ map f ys ≡⟨ unfold-ʳ++ (map f xs) (map f ys) ⟨
   map f xs ʳ++ map f ys          ∎
   where open ≡-Reasoning
 
-∷-ʳ++-eqFree : ∀ a (xs : Vec A m) {ys : Vec A n} → let eq = sym (+-suc m n) in
-               cast eq ((a ∷ xs) ʳ++ ys) ≡ xs ʳ++ (a ∷ ys)
-∷-ʳ++-eqFree a xs {ys} = begin
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:1073]: This lemma seems to have been deleted without replacement?

**Review by MatthewDaggitt — CHANGES_REQUESTED** [review]
Generally the lemmas look good, but I agree with @JacquesCarette point about the use of tactics.

File: src/Data/Vec/Properties.agda (hunk 1 above)
Comment (jmougeot) [reply src/Data/Vec/Properties.agda:1055]: From my perspective, the advantages of this version are:
	•	It uses equational reasoning instead of induction
	•	It relies on existing properties from the List module
	•	It avoids the use of brackets from cast reasoning, which I personally find harder to follow
But if it's not what we want to take,  please let me know!

File: src/Data/Vec/Properties.agda (hunk 9 above)
Comment (jmougeot) [reply src/Data/Vec/Properties.agda:1073]: This lemma was previously used in the proof of` ʳ++-ʳ++-eqFree`, but since we now use the corresponding property directly from the List module, this lemma has become redundant `ʳ++-ʳ++-eqFree` is strictly stronger: 

```
∷-ʳ++-eqFree a xs {ys}  = ʳ++-ʳ++-eqFree (a ∷ []) {ys = xs} {zs = ys}

```
Should we keep it anyway ?

Comment (MatthewDaggitt) [reply src/Data/Vec/Properties.agda:1073]: Yes, in general we can't delete code from the library without deprecating it as other users may depend on it downstream! Please could you put it back?

File: src/Data/Vec/Properties.agda (hunk 1 above)
Comment (MatthewDaggitt) [reply src/Data/Vec/Properties.agda:1055]: Okay, those are good reasons.

**Comment by MatthewDaggitt** [comment]
Otherwise once the old lemma is added back, then it looks good to go!

File: src/Data/Vec/Properties.agda (hunk 9 above)
Comment (jmougeot) [reply src/Data/Vec/Properties.agda:1073]: I added it back as you asked, but shouldn’t I put it with the deprecated functions?

Comment (MatthewDaggitt) [reply src/Data/Vec/Properties.agda:1073]: If the old version is strictly stronger, then yes we can deprecate it. Please remember to add an entry in the CHANGELOG!

File: src/Data/Vec/Properties.agda [hunk 10]
```diff
@@ -38,6 +38,7 @@ open import Relation.Unary using (Pred; Decidable)
 open import Relation.Nullary.Decidable.Core
   using (Dec; does; yes; _×-dec_; map′)
 open import Relation.Nullary.Negation.Core using (contradiction)
+open import Tactic.Cong using (cong!)
```
Comment (JacquesCarette) [inline src/Data/Vec/Properties.agda]: Could you remove this please.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
Other than the missing `CHANGELOG` bit that @MatthewDaggitt asked for, and the `cong!`, this looks good to me too.

**Review by MatthewDaggitt — APPROVED** [review]

**Review by JacquesCarette — APPROVED** [review]
